US06962926B2
A solution of 1,3-dimethyl-6-vinyl-1H-pyrazolo[3,4-b]pyridine-5-carbonitrile (2.20 g, 11.1 mmol) in methanol (110 mL) was treated with acetic acid (635 μL, 11.1 mmol) and pyrrolidine (4.59 mL, 55.5 mmol). The mixture was stirred at room temperature for 3 hours and the solvent removed under reduced pressure. The residue was suspended in water and extracted with ethyl acetate. The combined organic layers were dried over Na2SO4 and concentrated to give 1,3-dimethyl-6-[2-(pyrrolidin-1-yl)ethyl]-1H-pyrazolo[3,4-b]pyridine-5-carbonitrile as a tan solid.

reactant | 1,3-dimethyl-6-vinyl-1H-pyrazolo[3,4-b]pyridine-5-carbonitrile | 11.1 mmol, 2.20 g | CN1N=C(C=2C1=NC(=C(C2)C#N)C=C)C | C11H10N4
reactant | acetic acid | 11.1 mmol, 635 μL | C(C)(=O)O | C2H4O2
reactant | pyrrolidine | 55.5 mmol, 4.59 mL | N1CCCC1 | C4H9N
solvent | methanol | 110 mL | CO | CH4O
product | 1,3-dimethyl-6-[2-(pyrrolidin-1-yl)ethyl]-1H-pyrazolo[3,4-b]pyridine-5-carbonitrile | CN1N=C(C=2C1=NC(=C(C2)C#N)CCN2CCCC2)C | C15H19N5
